US07435823B2
Step (a) Preparation of methyl 7-methoxyquinoline-4-carboxylate
The following reagents were placed in a glass jacket inside of a Parr bomb: 4-chloro-7-methoxyquinoline (2 g, 10.33 mmol), Pd(OAC)2 (225 mg, 1.0 mmol), 1,3-diphenylphosphino propane [DPPE] (618 mg, 1.55 mmol), DMF (15 mL), MeOH (3 mL) and TEA (2.87 mL, 20.66 mmol) and the vessel sealed. The vessel was pressurized to 50 psi CO and stirred at 70° C. (internal temperature) for 19 h. The vessel was allowed to cool to RT, carefully opened and the contents transferred to a round bottom flask and concentrated in-vacuo. A solution of 2:1 EtOAc:hexanes was added to the residual solid and the solid filtered (and discarded). The filtrate was evaporated and the residue purified by column chromatography using a mixture of EtOAc/hexanes as the eluent. The title compound was obtained as a yellow solid.

reactant | 4-chloro-7-methoxyquinoline | 10.33 mmol, 2 g | ClC1=CC=NC2=CC(=CC=C12)OC | C10H8ClNO
reactant | 1,3-diphenylphosphino propane | 1.55 mmol, 618 mg | C1(=CC=CC=C1)PCCCPC1=CC=CC=C1 | C15H18P2
reactant | DMF | 15 mL | CN(C)C=O | C3H7NO
reactant | MeOH | 3 mL | CO | CH4O
catalyst | Pd(OAC)2 | 1.0 mmol, 225 mg | CC(=O)O.CC(=O)O.[Pd]
product | methyl 7-methoxyquinoline-4-carboxylate | COC1=CC=C2C(=CC=NC2=C1)C(=O)OC | C12H11NO3
